US07531558B2
3-Dimethylamino-4′-fluoropropiophenone hydrochloride
To a solution of 4′-fluoroacetophenone (5 g, 36.2 mmol) in propan-2-ol (90 ml) was added paraformaldehyde (4.35 g, 0.145 mol), dimethylamine hydrochloride (54.2 mmol) and concentrated HCl (0.8 ml). The reaction was heated at reflux for 18 h and on cooling the solvent was removed in vacuo. The residue was treated with acetone giving a white precipitate which was collected by filtration and dried in vacuo to give the title compound as a white solid (7.9 g). MS (ES): MH+ 196.

reactant | 4′-fluoroacetophenone | 36.2 mmol, 5 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | paraformaldehyde | 0.145 mol, 4.35 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 54.2 mmol | Cl.CNC
reactant | HCl | 0.8 ml | Cl | ClH
solvent | propan-2-ol | 90 ml | CC(C)O | C3H8O
product | 3-Dimethylamino-4′-fluoropropiophenone hydrochloride | 7.9 g | Cl.CN(CCC(=O)C1=CC=C(C=C1)F)C | InChI=1S/C11H14FNO.ClH/c1-13(2)8-7-11(14)9-3-5-10(12)6-4-9;/h3-6H,7-8H2,1-2H3;1H
